US07968556B2
SYNTHESIS OF 2-(CIS-4-HYDROXYCYCLOHEXYLAMINO)-9-(2-METHOXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE
Ethyl 2-(cis-4-hydroxycyclohexylamino)-9-(2-methoxyphenyl)-8-oxo-8,9-dihydro-7H-purine-6-carboxylate. Ethyl 5-amino-2-(cis-4-hydroxycyclohexylamino)-6-(2-methoxyphenyl-amino)pyrimidine-4-carboxylate (0.272 g, 0.678 mmol) and 1,1′-1,1′-carbonyldiimidazole (1.09 g, 6.78 mmol) in dichloromethane (20 mL) were reacted according to General Procedure F. A mixture of the title compound and the imidazole ester were formed and were taken on without further purification. MS (ESI) m/z 399 [M+1]+ (title compound), 522 [M+1]+ (imidazole urea).

reactant | Ethyl 2-(cis-4-hydroxycyclohexylamino)-9-(2-methoxyphenyl)-8-oxo-8,9-dihydro-7H-purine-6-carboxylate | O[C@H]1CC[C@H](CC1)NC1=NC(=C2NC(N(C2=N1)C1=C(C=CC=C1)OC)=O)C(=O)OCC | C21H25N5O5
reactant | Ethyl 5-amino-2-(cis-4-hydroxycyclohexylamino)-6-(2-methoxyphenyl-amino)pyrimidine-4-carboxylate | 0.678 mmol, 0.272 g | NC=1C(=NC(=NC1NC1=C(C=CC=C1)OC)N[C@@H]1CC[C@@H](CC1)O)C(=O)OCC | C20H27N5O4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(CIS-4-HYDROXYCYCLOHEXYLAMINO)-9-(2-METHOXYPHENYL)-8-OXO-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE | O[C@H]1CC[C@H](CC1)NC1=NC(=C2NC(N(C2=N1)C1=C(C=CC=C1)OC)=O)C(=O)N | C19H22N6O4
